US07151105B2
Step 5: Trifluoro-methanesulfonic acid 5-ethyl-2-(3-methoxy-propyl)-phenyl ester
Trifluoromethanesulfonic anhydride (0.47 mL, 2.8 mmol) followed by triethylamine (0.42 mL, 3 mmol) was added to a cooled 0° C. solution of 5-ethyl-2-(3-methoxy-propyl)-phenol (0.45 g, 2.3 mmol). The reaction was stirred for 1 hour and then warmed to room temperature. The reaction was partitioned between 1 N HCl and EtOAc. The organic extracts were washed with bring, dried over Na2SO4 and concentrated to a black oil. 1H NMR (400 MHz, CDCl3): δ 1.24 (t, J=7.6 Hz, 3 H), 1.89 (m, 2 H), 2.65 (d, J=7.6 Hz, 2 H), 2.75 (t, J=7.6 Hz, 2 H), 3.35 (s, 3 H), 3.40 (t, J=7.6 HZ, 2 H), 7.07 (s, 1 H), 7.14 (d, J=8.0 Hz, 1 H), 7.23 (d, J=8.0 Hz, 1 H).

reactant | Trifluoromethanesulfonic anhydride | 2.8 mmol, 0.47 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | triethylamine | 3 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
reactant | 5-ethyl-2-(3-methoxy-propyl)-phenol | 2.3 mmol, 0.45 g | C(C)C=1C=CC(=C(C1)O)CCCOC | C12H18O2
product | Trifluoro-methanesulfonic acid 5-ethyl-2-(3-methoxy-propyl)-phenyl ester | C(C)C=1C=CC(=C(C1)OS(=O)(=O)C(F)(F)F)CCCOC | C13H17F3O4S
